US05439928
a) 4-(1-hydroxy-4,4-diphenylbutyl)-1H-imidazole
A concentrated water solution of ammonium formate (4,0 g) is added dropwise to the boiling mixture of 1-benzyl-5-(1-hydroxy-4,4-diphenylbutyl)-1H-imidazole (4,5 g) and 10% Pd/C (0,5 g) in 50 ml of 50% ethanol. The mixture is refluxed for 2 hours. The catalyst is filtrated and the solvent is evaporated. 2M NaOH is added and the product is extracted into ethyl acetate. The ethyl acetate phase is dried and evaporated to dryness to give the product which is used in the following step b).

reactant | water | O | H2O
reactant | ammonium formate | 4,0 g | C(=O)[O-].[NH4+]
reactant | 1-benzyl-5-(1-hydroxy-4,4-diphenylbutyl)-1H-imidazole | 4,5 g | C(C1=CC=CC=C1)N1C=NC=C1C(CCC(C1=CC=CC=C1)C1=CC=CC=C1)O | C26H26N2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 0,5 g | [Pd] | Pd
product | 4-(1-hydroxy-4,4-diphenylbutyl)-1H-imidazole | OC(CCC(C1=CC=CC=C1)C1=CC=CC=C1)C=1N=CNC1 | C19H20N2O
